US03935218
2-(2-Imidazolin-2-yl)benzophenone hydrobromide is prepared by admixing an ethanolic solution of 2,3-dihydro-5-phenyl-5H-imidazo[2,1-a]isoindol-5-ol with an ethanol solution containing an equivalent amount of hydrobromic acid and, thereafter, evaporating the solvent under vacuum.

reactant | 2,3-dihydro-5-phenyl-5H-imidazo[2,1-a]isoindol-5-ol | C1(=CC=CC=C1)C1(N2C(C3=CC=CC=C13)=NCC2)O | C16H14N2O
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Imidazolin-2-yl)benzophenone hydrobromide | Br.N1C(=NCC1)C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C16H14N2O.BrH/c19-15(12-6-2-1-3-7-12)13-8-4-5-9-14(13)16-17-10-11-18-16;/h1-9H,10-11H2,(H,17,18);1H
